US06403792B1
65a) 2Phenoxymethylpyridine
To a mixture of phenol (5.25 g, 55.8 mmol) and 2-chloromethylpyridine hydrochloride (10 g, 61.0 mmol) in 80 mL of toluene was added sodium hydroxide (5.35 g, 134 mmol. The mixture was refluxed for 16 hours. The mixture was washed twice with 60 mL of water. The organic layer was then extracted three times with 25 mL of 6 N HCl. The aqueous layer was made basic with 250 mL of 10% NaOH and extracted three times with 150 mL of CH2Cl2. The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure to give the title compound as a yellow oil (10.6 g, 94%). ES (+) MS m/e=186 (M+H).

reactant | phenol | 55.8 mmol, 5.25 g | C1(=CC=CC=C1)O | C6H6O
reactant | 2-chloromethylpyridine hydrochloride | 61.0 mmol, 10 g | Cl.ClCC1=NC=CC=C1
reactant | sodium hydroxide | [OH-].[Na+]
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
product | 2Phenoxymethylpyridine | 10.6 g, 94% | O(C1=CC=CC=C1)CC1=NC=CC=C1 | C12H11NO
